US04225597
Dissolve 300 g of beclomethasone dipropionate in 2 liters of methylene chloride at reflux. Treat with 15 g activated charcoal for 15 minutes at reflux and filter while hot. Concentrate the filtered solution to a volume of 900 ml and while maintaining reflux add slowly 900 ml of n-hexane. Cool to 0-10° C. Filter the resultant precipitate and wash with n-hexane. Dry the precipitate in air at <50° C. until constant weight to afford beclomethasone dipropionate-n-hexane solvate having an [α]/D25 =+85.5±2° in dioxane and an ε1% (extinction coefficient) in 1% solution=275±10 at 239 mu. Analysis by gas chromatography shows an n-hexane content of 4.6%. The beclomethasone dipropionate content (determined by ultraviolet assay) is 94.5%.

reactant | beclomethasone dipropionate | 300 g | CCC(=O)OCC(=O)[C@]1([C@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)Cl)O)C)C)OC(=O)CC | C28H37ClO7
reactant | charcoal | C | CH4
solvent | methylene chloride | 2 liters | C(Cl)Cl | CH2Cl2
product | beclomethasone dipropionate n-hexane | CCC(=O)OCC(=O)[C@]1([C@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)Cl)O)C)C)OC(=O)CC.CCCCCC | InChI=1S/C28H37ClO7.C6H14/c1-6-23(33)35-15-22(32)28(36-24(34)7-2)16(3)12-20-19-9-8-17-13-18(30)10-11-25(17,4)27(19,29)21(31)14-26(20,28)5;1-3-5-6-4-2/h10-11,13,16,19-21,31H,6-9,12,14-15H2,1-5H3;3-6H2,1-2H3/t16-,19-,20-,21-,25-,26-,27-,28-;/m0./s1
